US04243666
Preparation of 4-(N-methyl-N-benzylcarbamoyl)piperidine
This compound was prepared similarly to Preparation C starting from 1-benzyloxycarbonylpiperidine-4-carboxylic acid chloride and N-methylbenzylamine, and was used directly in Example 10. This intermediate was characterised as the hydrochloride salt, m.p. 175°-176°.

reactant | 1-benzyloxycarbonylpiperidine-4-carboxylic acid chloride | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)Cl | C14H16ClNO3
reactant | N-methylbenzylamine | CNCC1=CC=CC=C1 | C8H11N
product | 4-(N-methyl-N-benzylcarbamoyl)piperidine | CN(C(=O)C1CCNCC1)CC1=CC=CC=C1 | C14H20N2O
